US06645997B2
Step B: Ethyl 7-(3-(2-propyl-4-phenoxyphenoxy)propoxy)-chromane-2-carboxylate
To a 50 ml round-bottom flask were added ethyl 7-hydroxychromane-2-carboxylate (100 mg, 0.45 mmol), 4-(3-bromopropoxy)-3-propylphenyl phenyl ether (U.S. Pat. No. 6,008,237) (188 mg, 0.54 mmol), cesium carbonate (176 mg, 0.54 mmol), and DMF 3 ml. The resulting suspension was stirred at 70° C. for 5 hr. The solvent was removed under reduced pressure. The residue was diluted with AcOEt and water. The organic layer was separated. The aqueous layer was extracted twice with AcOEt. The combined organic layers were dried over anhydrous Na2SO4, filtered, concentrated, and chromatographed on silica gel. Eluting with 10% AcOEt/hexanes gave the title compound as a pale yellow oil 167 mg (76%).

reactant | ethyl 7-hydroxychromane-2-carboxylate | 0.45 mmol, 100 mg | OC1=CC=C2CCC(OC2=C1)C(=O)OCC | C12H14O4
reactant | 4-(3-bromopropoxy)-3-propylphenyl phenyl ether | C1(=CC=CC=C1)OC1=CC(=C(C=C1)OCCCBr)CCC | C18H21BrO2
reactant | cesium carbonate | 0.54 mmol, 176 mg | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | DMF 3 | CN(C)CC1=CC(=C(C(=C1)CN(C)C)O)CN(C)C | C15H27N3O
product | Ethyl 7-(3-(2-propyl-4-phenoxyphenoxy)propoxy)-chromane-2-carboxylate | 167 mg, 76% | C(CC)C1=C(OCCCOC2=CC=C3CCC(OC3=C2)C(=O)OCC)C=CC(=C1)OC1=CC=CC=C1 | C30H34O6
